Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
metformin
 
Attending: ___
 
Chief Complaint:
Chest pain, dyspnea on exertion
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old man with history of HTN, HLD, 
uncontrolled type 2 DM, presumed cocaine cardiomyopathy, and CHF 
(EF ___, who presented to the ED on ___ with worsening 
exertional chest pain and dyspnea which resolves with rest. 
 
Of note, the patient smoked continues to use cocaine on and off 
and most recently smoked cocaine last night. Prior to that he 
smoked 4 weeks ago. 
 
In late ___, he was at ___ for detox and was 
found to have non-specific ST T wave abnormalities and IVCD on 
EKG.  He was referred for stress echocardiogram which showed 
diffuse hypokinesis with some regionality and an EF of ___ % 
on resting images, mild MR and trace aortic insufficiency. 
Exercise was deferred and he is referred for cardiac cath. He 
was not started on a beta blocker due to recent cocaine use. He 
was started on Lisinopril 5mg which was switched to Valsartan on 
___.  He had a cardiac catheterization at ___ in ___ 
which demonstrated nonobstructive coronary artery disease. 
Therefore was felt his cardiomyopathy was secondary to cocaine 
and alcohol abuse.
  
In the ED, initial vitals were 98.6 101 129/90 14 98% 2L NP. ECG 
unchanged from prior with TWI in V4-6.  CXR with mild 
cardiomegaly without acute cardiopulmonary abnormality. Troponin 
< 0.01. He received aspirin 325 mg. Urine positive for cocaine. 
He remained chest pain free and was sent to cardiology for 
further management. 
  
On arrival to the floor, vital signs were 98.1 129/90 97 18 
98%RA. He clearly reported the history above and denies current 
chest pain. He reports his baseline weight as 245 lbs.    
  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, black stools or 
red stools, recent fevers, chills or rigors. All of the other 
review of systems were negative.  
 
Cardiac review of systems is positive, as above, and paroxysmal 
nocturnal dyspnea, orthopnea, worsening ankle edema recently and 
intermittent presyncope.  He denies chest pain currently, 
palpitations, or syncope.  
 
 
Past Medical History:
- Uncontrolled type 2 diabetes
- Hyperlipidemia 
- Dilated cardiomyopathy 
- CHF (EF ___ 
- Sleep apnea - compliant with CPAP 
- Erectile dysfunction
- Bilateral hand numbness
- Anemia
- Substance abuse (cocaine, tobacco)
- Thyrotoxicosis now resolved 
- H. Pylori 
- Right knee arthroscopy
- Ganglion cyst resection 
- Tinea Corporis 
 
Social History:
___
Family History:
Mother with CHF, died at age ___.  Father with CAD and CABG in 
his ___. 
 
Physical Exam:
ADMISSION EXAMINATION:  
VS: 98.1 129/90 97 18 98%RA
Weight: 112.7 kg 
General: Pleasant man sitting in bed in NAD
HEENT: EOMI, PERRL, sclerae anicteric
Neck: Supple, JVP 10-12 cm 
CV: RRR, no murmurs, rubs, or gallops 
Lungs: Bibasilar rales, no wheezing 
Abdomen: Soft, nontender, nondistended
Ext: WWP, trace ankle and pretibial edema
Neuro: CN II-XII intact
Skin: No rashes 
PULSES: 2+ DP pulses 
 
DISCHARGE EXAMINATION:
VS: 97.6/98.4 ___ 108/74 (108/66-115/43) 16 99%RA 
Discharge weight: 109.4 kg
FSG 274-381
General: pleasant, well appearing man, NAD, walking around his 
room
HEENT: scleral anicteric
Neck: JVP to edge of mandible while sitting at 45 degrees, 
improving from yesterday
CV: RRR S1 S2, no murmurs, rubs or gallops noted
Lungs: clear to auscultation b/l, no wheezes, rhonchi, crackles
Abdomen: soft, nontender, nondistended, +BS
Extremities: no ___ edema noted, warm, well perfused, 2+ DP 
pulses
Neuro: normal gait, alert and appropriate
 
Pertinent Results:
Admission labs:
___ 01:00PM BLOOD WBC-8.1 RBC-4.66 Hgb-13.7* Hct-38.3* 
MCV-82 MCH-29.3 MCHC-35.7* RDW-13.3 Plt ___
___ 01:00PM BLOOD Neuts-57.7 ___ Monos-6.2 Eos-0.9 
Baso-0.5
___ 01:00PM BLOOD Glucose-206* UreaN-13 Creat-0.8 Na-139 
K-3.6 Cl-108 HCO3-23 AnGap-12
___ 01:00PM BLOOD Calcium-8.2* Mg-2.0
 
Notable labs:
___ 01:00PM BLOOD cTropnT-<0.01
___ 07:10PM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:25AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:25AM BLOOD %HbA1c-9.8* eAG-235*
___ 06:25AM BLOOD Triglyc-111 HDL-56 CHOL/HD-3.1 LDLcalc-93
___ 01:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Discharge labs:
___ 06:20AM BLOOD WBC-6.8 RBC-5.36 Hgb-14.5 Hct-43.7 
MCV-81* MCH-27.0 MCHC-33.1 RDW-13.1 Plt ___
___ 06:20AM BLOOD UreaN-17 Creat-0.9 Na-132* K-4.8 Cl-99 
HCO3-25 AnGap-13
___ 06:20AM BLOOD Mg-2.0
 
Micro: 
___ 1:15 pm URINE     Site: CLEAN CATCH
 
                            **FINAL REPORT ___
 
   URINE CULTURE (Final ___:    NO GROWTH. 
 
Studies:
___ TTE:
The left atrium is moderately dilated. The right atrium is 
moderately dilated. No atrial septal defect is seen by 2D or 
color Doppler. The estimated right atrial pressure is ___ mmHg. 
Left ventricular wall thicknesses are normal. The left 
ventricular cavity is mildly dilated. There is moderate to 
severe global left ventricular hypokinesis (LVEF = ___ %). No 
masses or thrombi are seen in the left ventricle. The right 
ventricular cavity is mildly dilated with moderate global free 
wall hypokinesis. The ascending aorta and aortic arch are mildly 
dilated. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
structurally normal. There is no mitral valve prolapse. Mild to 
moderate (___) mitral regurgitation is seen. There is 
mild-moderate pulmonary artery systolic hypertension. There is 
no pericardial effusion. 
 
IMPRESSION: Biventricular cavity dilation with moderate to 
severe biventricular hypokinesis. Mild-moderate pulmonary artery 
hypertension. Mild-moderate mitral regurgitation. Dilated 
thoracic aorta. 
 
___ ECG: Sinus rhythm, poor R wave progression, TWI in 
V4-V5, stable from prior. 
  
___ CXR: 
The heart size is mildly enlarged. Mediastinal and hilar 
contours are unremarkable. Pulmonary vasculature is normal. 
Lungs are clear. No pleural effusion or pneumothorax is clearly 
noted. There is no acute osseous abnormality. 
IMPRESSION: Mild cardiomegaly without acute cardiopulmonary 
abnormality. 
 
Prior studies:
 
___ Cardiac catheterization:
Selective coronary angiography of this right dominant system 
demonstrated no angiographically-apparent flow-limiting 
stenosis.
The LMCA had no angiographically-apaprent flow-limiting 
stenosis.
The LAD had a 30% mid stenosis but no angiographically-apparent 
flow-limiting stenosis.  
The LCx had mild luminal irregularity with no 
angiographically-apparent flow-limiting stenosis.  
The RCA had no angiographically-apparent flow-limiting stenosis. 

 
2.  Limited resting hemodynamics revealed mildly elevated left 
sided filling pressures with an LVEDP of 17 mmHg. 
  
FINAL DIAGNOSIS:     
1.  Coronary arteries without angiographically-apparent 
flow-limiting disease. 
2.  Mildly elevated left sided filling pressures. 
 
 
Brief Hospital Course:
___ with h/o HTN, HLD, DM2, presumed cocaine cardiomyopathy, and 
sCHF (EF ___ who intially presented with DOE and chest pain 
that resolved with rest.  

# Dilated cardiomyopathy, CHF: EF ___ on prior TTE, presumed 
from cocaine cardiomyopathy given non-ischemic cardiac cath in 
___. Patient continues to use cocaine, though infrequently. 
He was volume overloaded on admission and was diuresed with IV 
lasix 40 mg daily with excellent effect (was taking 20 mg daily 
at home).  His JVP decreased from ~20cm to 10cm by time of 
discharge. Repeat TTE showed EF of ___, worse than prior.  He 
was counseled on the importance on abstinance from cocaine and 
met with social work who felt he is motivated to quit. He was 
continued on aspirin, beta blocer, statin, ___, and 
spironolactone, and was discharged on lasix 20 mg daily at a 
weight of 109.4 kg. 

# Chest pain, DOE: Resolved.  Unclear underlying etiology, but 
possible cocaine induced vasospasm, ACS, heart failure 
excacerbation. Trops negative, EKG unchanged from priors. 
Currently chest pain free and no longer dyspneic in setting of 
diuresis. Continued aspirin, carvedilol, simvastatin, valsartan, 
and spironolactone. 
  
# Uncontrolled type 2 diabetes: A1c on this admission 9.9%. 
Sugars have been very elevated in last 24h. He was continued on 
glargine 40 units and his home glimepiride was replaced with 
insulin sliding scale while in house.  
 
# Hyperlipidemia: Continued simvastatin. 
 
# Transitional issues 
- Code: Full (confirmed ___
- Contact: Wife ___ (c) ___ Uncle ___ (c) 
___
- Discharge weight: 109.4 kg 
- Patient appeared motivated to remain abstinent from cocaine.  
Risks of cocaine use while on a beta blocker were discussed. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. glimepiride *NF* 2 mg Oral daily 
2. Simvastatin 20 mg PO DAILY 
3. Potassium Chloride 10 mEq PO DAILY 
4. Carvedilol 6.25 mg PO BID 
5. Furosemide 40 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Ketoconazole Shampoo 1 Appl TP ASDIR 
8. Valsartan 80 mg PO DAILY 
9. Glargine 40 Units Breakfast

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Spironolactone 25 mg PO DAILY 
RX *spironolactone 25 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. glimepiride *NF* 2 mg ORAL DAILY 
4. Ketoconazole Shampoo 1 Appl TP ASDIR 
5. Simvastatin 20 mg PO DAILY 
6. Valsartan 80 mg PO DAILY 
7. Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Outpatient Lab Work
Please draw chem 10 on ___ and fax results to PCP 
(___.), Fax: ___ 

9. Carvedilol 6.25 mg PO BID 
10. Glargine 40 Units Breakfast

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
- Non ischemic cardiomyopathy
- Acute on chronic systolic heart failure
 
Secondary diagnoses: 
- Uncontrolled type 2 diabetes
- Hyperlipidemia 
- Sleep apnea - compliant with CPAP 
- Substance abuse (cocaine, tobacco)
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
 
It was a pleasure taking care of you at the ___. You were 
admitted to the hospital for worsening shortness of breath with 
exertion. We think this is due to your know heart problem called 
cardiomyopathy and congestive heart failure.  It is very likely 
that this condition is related to cocaine use, so we would 
recommend that you stop using cocaine.
 
We started you on a medication called spironolactone, which you 
should continue as prescribed. It is also very important that 
you continue your lasix so fluid does not build up.  
 
Followup Instructions:
___